US06613747B2
Step A: 5-Bromo-2-(1H-pyrazol-1-yl)pyridine
Pyrazole (2.05 g, 30.11 mol) was added in portions to sodium hydride (60% in oil, 1.20 g, 30.00 mmol) in DMF (40 mL) and the resulting mixture was stirred for 1 h at RT. 2,5-Dibromopyridine (4.75 g, 20.05 mmol) was added and the mixture was heated to 100° C. for 2 h. Ice-water (100 mL) was added to the cooled reaction mixture and the precipitated solids were removed by filtration and allowed to air-dry. Recrystallization from hexane provided 3.31 g (74%) of the title compound as a tan solid. MS 224 (M+H)+.

reactant | Pyrazole | 30.11 mol, 2.05 g | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | 30.00 mmol, 1.20 g | [H-].[Na+]
reactant | 2,5-Dibromopyridine | 20.05 mmol, 4.75 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-(1H-pyrazol-1-yl)pyridine | 3.31 g, 74% | BrC=1C=CC(=NC1)N1N=CC=C1 | C8H6BrN3
